US05925765
Preparation of Methyl 3-Chloro-5-(methoxymethyl)-2-pyridinecarboxylate
An autoclave was charged with 1.16 g (5.6 mmol) of 2,3-dichloro-5-(methoxymethyl)pyridine, 72 mg of 1,4-bis(diphenylphosphino)butane [3 mol percent based on the 2,3-dichloro-5-(methoxymethyl)pyridine], 8 mg of bis(triphenylphosphine)palladium(II) chloride [0.2 mol percent based on the 2,3-dichloro-5-(methoxymethyl)pyridine], 1.39 g (17 mmol) of sodium acetate and 16 ml of methanol. The autoclave is repeatedly flushed with carbon monoxide to replace the air by carbon monoxide. A carbon monoxide pressure of 15 bar was then applied to the autoclave. The reaction mixture was heated to 165° C. (bath temperature) and stirred for 6 hours. After cooling to room temperature, the crude product was concentrated under reduced pressure (30 mbar), chromotographed over silica gel 60 (eluent:hexane/ethyl acetate 3:1), analyzed by gas chromatography and characterized by 1H NMR and MS/GC-MS. The yield of the product was 1.05 g (87 percent) of a colorless oil. Other data concerning the product was:

reactant | 2,3-dichloro-5-(methoxymethyl)pyridine | 5.6 mmol, 1.16 g | ClC1=NC=C(C=C1Cl)COC | C7H7Cl2NO
reactant | 1,4-bis(diphenylphosphino)butane | 72 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | sodium acetate | 17 mmol, 1.39 g | C(C)(=O)[O-].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | methanol | 16 ml | CO | CH4O
product | Methyl 3-Chloro-5-(methoxymethyl)-2-pyridinecarboxylate | ClC=1C(=NC=C(C1)COC)C(=O)OC | C9H10ClNO3
